US06469020B2
1,3,4,9-Tetrahydro-β-carboline-2-carboxylic Acid tert-Butyl Ester
1,2,3,4-Tetrahydro-9H-pyrido[3,4-b]indole (5.0 g), di-tert-butyldicarbonate (6.3g) and triethylamine (4.0 ml) in dichloromethane (100 ml) were stirred under nitrogen at room temperature for 30 minutes. The mixture was poured into brine (100 ml) and extracted with dichloromethane (100 ml). The organic layer was washed with water (150 ml) then dried (MgSO4) and the solvent removed under reduced pressure to give the title compound (7.68 g, 97%) as an off white solid.

reactant | 1,2,3,4-Tetrahydro-9H-pyrido[3,4-b]indole | 5.0 g | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | di-tert-butyldicarbonate | 6.3g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 1,3,4,9-Tetrahydro-β-carboline-2-carboxylic Acid tert-Butyl Ester | 7.68 g, 97% | C(C)(C)(C)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C16H20N2O2
